US09079889B2
A solution of DME (0.2 M) and 2M aq. sodium carbonate (1.7 equiv.) was purged with nitrogen for 20 min. Then 4-chloro-3-nitropyridine (1.6 equiv.), 4,4,5,5-tetramethyl-2-(1,4-dioxaspiro[4.5]dec-7-en-8-yl)-1,3,2-dioxaborolane (1.0 equiv.), Pd(dppf)Cl2-DCM (0.05 equiv.) were added and stirred in a sealed bomb at 110° C. The reaction was stirred at that temperature for 3.5 hours. The reaction was diluted with ethyl acetate, washed with water, dried over MgSO4, filtered, and concentrated. The residue was purified by column (ethyl acetate:hexanes=1:1 with 10% methanol) to give 3-nitro-4-(1,4-dioxaspiro[4.5]dec-7-en-8-yl)pyridine (83%). LC/MS (m/z): MH+=263.2, Rt=0.71.

reactant | DME | 0.2 M | COCCOC | C4H10O2
reactant | sodium carbonate | 2M, 1.7 equiv. | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-chloro-3-nitropyridine | 1.6 equiv. | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 4,4,5,5-tetramethyl-2-(1,4-dioxaspiro[4.5]dec-7-en-8-yl)-1,3,2-dioxaborolane | 1.0 equiv. | CC1(OB(OC1(C)C)C1=CCC2(OCCO2)CC1)C | C14H23BO4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(dppf)Cl2 DCM | 0.05 equiv. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 3-nitro-4-(1,4-dioxaspiro[4.5]dec-7-en-8-yl)pyridine | 83% | [N+](=O)([O-])C=1C=NC=CC1C1=CCC2(OCCO2)CC1 | C13H14N2O4
